US06177469B1
1,3-Bis-(dodecylmercapto)-2-propanol
26.6 ml Dodecanethiol was added to an ethylate solution of 2.6 g sodium in 100 ml ethanol and the solution was stirred for 1 hour at room temperature. Then 8.5 ml epibromohydrin was added dropwise within 30 min and stirred overnight. The residue was taken up in ether after removing the solvent, washed twice with water and dried. The desired compound crystallized on evaporation of the solution. Yield 28.5 g (62%).

reactant | Dodecanethiol | 26.6 ml | C(CCCCCCCCCCC)S | C12H26S
reactant | sodium | 2.6 g | [Na] | Na
reactant | epibromohydrin | 8.5 ml | C(Br)C1CO1 | C3H5BrO
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 1,3-Bis-(dodecylmercapto)-2-propanol | C(CCCCCCCCCCC)SCC(CSCCCCCCCCCCCC)O | C27H56OS2
